Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
melanotic stool, dizziness
 
Major Surgical or Invasive Procedure:
___: Esophagogastroduodenoscopy with banding

 
History of Present Illness:
___ w/ cirrhosis, known variceal bleeds requiring endoscopic 
ligation in the past, presenting with black stool this morning 
x1, normal volume, with dizziness since this morning as well as 
a "knot in my stomach". States that his last bleed was in ___ 
requiring numerous transfusions, no episodes since then, usually 
seen at ___ in ___ but self-checked into ___ 
drug & alcohol rehab center 1 week ago on a voluntary section 
for care. He is concerned that he will have further bleeds and 
require transfusions as has occurred in the past. Some headache 
and lightheadedness as well. No chest pain, shortness of breath, 
vomiting, fevers, chills; no anticoagulation.
 
Past Medical History:
MEDICAL & SURGICAL HISTORY:  
 - history of cirrhosis  
 - HCV  
 - alcohol dependence: currently in a rehab
 
Social History:
___
Family History:
No pertinent family history.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VS: 98.2 PO 146 / 78 R Lying 75 20 98 Ra  
GEN: Alert, lying in bed, no acute distress  
HEENT: Moist MM, anicteric sclerae, no conjunctival pallor. 
PERRLA, EOMI.  
NECK: Supple without LAD  
PULM: full air entry bilaterally, no crackle. no wheeze. no 
rhonchi  
HEART: RRR (+)S1/S2 no m/r/g  
ABD: Soft, non-distended. tender in the epigatrium. No 
rebound/guarding. BS+  
EXTREM: Warm, well-perfused, no edema  
NEURO: CN II-XII intact, strength ___ in b/l ___, SLIT  

DISCHARGE PHYSICAL EXAM:
========================
VS: 98.7 138/70 66 20 97%RA
GEN: Alert, lying in bed, no acute distress  
HEENT: PERRL, moist MM, anicteric sclerae, no conjunctival 
pallor. PERRLA, EOMI.
NECK: Supple without cervical or supraclavicular LAD  
PULM: full air entry bilaterally, no crackles. no wheeze. no 
rhonchi
HEART: RRR (+)S1/S2 no m/r/g  
ABD: Soft, non-distended, non-tender. No rebound/guarding. BS+. 
no masses palpated  
EXTREM: Warm, well-perfused, no edema
NEURO: CN II-XII intact, strength ___ in b/l ___, no asterixis
PSYCH: Patient reports no suicidal ideation, no thoughts of 
self-harm.
 
Pertinent Results:
ADMISSION LABS:
================
___ 06:00PM BLOOD WBC-4.1 RBC-3.59* Hgb-7.0* Hct-25.3* 
MCV-71* MCH-19.5* MCHC-27.7* RDW-20.8* RDWSD-52.8* Plt ___
___ 06:00PM BLOOD Neuts-65.4 Lymphs-18.0* Monos-12.7 
Eos-2.2 Baso-0.7 NRBC-0.5* Im ___ AbsNeut-2.68 
AbsLymp-0.74* AbsMono-0.52 AbsEos-0.09 AbsBaso-0.03
___ 06:00PM BLOOD Glucose-94 UreaN-18 Creat-0.9 Na-142 
K-4.2 Cl-109* HCO3-25 AnGap-12
___ 06:00PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

OTHER PERTINENT LABS:
======================
___ 02:20AM BLOOD ___
___ 06:45AM BLOOD ALT-129* AST-154* AlkPhos-57 TotBili-0.7
___ 10:33AM BLOOD Albumin-3.2* Calcium-8.2* Phos-3.2 Mg-1.8
___ 02:20AM BLOOD calTIBC-432 TRF-332
___ 06:53AM BLOOD Ferritn-8.9*

DISCHARGE LABS:
================
___ 06:50AM BLOOD WBC-4.1 RBC-4.11* Hgb-8.6* Hct-30.4* 
MCV-74* MCH-20.9* MCHC-28.3* RDW-22.9* RDWSD-60.4* Plt ___
___ 06:50AM BLOOD ___ PTT-34.0 ___
___ 06:50AM BLOOD Glucose-83 UreaN-9 Creat-0.9 Na-140 K-3.7 
Cl-105 HCO3-26 AnGap-13
___ 06:50AM BLOOD Calcium-8.0* Phos-3.2 Mg-1.8
___ 06:50AM BLOOD ALT-72* AST-61* AlkPhos-75 TotBili-0.6

URINE STUDIES:
===============
___ 05:45PM URINE Color-Yellow Appear-Clear Sp ___
___ 05:45PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 05:49PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

MICROBIOLOGY:
==============
___ 5:49 pm URINE
                            **FINAL REPORT ___
   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

___ 2:55 pm BLOOD CULTURE
   Blood Culture, Routine (Pending): No growth to date

___ 2:55 pm BLOOD CULTURE
   Blood Culture, Routine (Pending): No growth to date

___ 5:45 pm URINE      Source: ___. 
                            **FINAL REPORT ___
   URINE CULTURE (Final ___:    NO GROWTH. 
 
IMAGING/STUDIES:
================
EGD REPORT (___):
Findings: 
Esophagus: Protruding Lesions 3 cords of large varices with 
high-risk stigmata were seen in the mid to lower esophagus. 4 
bands were successfully placed.  
Stomach: Mucosa: Erythema, congestion and mosaic appearance of 
the mucosa were noted in the stomach. These findings are 
compatible with portal hypertensive gastropathy.  
Duodenum: Normal duodenum. 
IMPRESSION: Esophageal varices (ligation)
Erythema, congestion and mosaic appearance in the stomach 
compatible with portal hypertensive gastropathy
Otherwise normal EGD to third part of the duodenum 

Liver/Gallbladder Ultrasound (___):
1. The left lobe of the liver cannot be visualized due to 
overlying bowel 
gas. However, the partially visualized liver parenchyma is 
nodular and 
coarsened compatible with a cirrhotic liver. There is an 
echogenic lesion in the right lobe of the liver measuring up to 
0.6 cm. Ultrasound in 3 months or further characterization with 
MRI is recommended. 
2. Moderate ascites. 
3. Splenomegaly. 
 
Brief Hospital Course:
Mr. ___ is a ___ male with a history of alcoholic 
hepatitis, ETOH/HCV cirrhosis, and depression with recent 
suicidal ideation, who presented from ___ with an episode 
of melena and orthostasis. His H/H on presentation was noted to 
be ___. He was transfused 2 units of packed red blood cells 
and his H/H improved. He was started on octreotide IV, 
pantoprazole IV BID, and IV ceftriaxone for SBP prophylaxis. He 
remained hemodynamically stable. Underwent an upper endoscopy on 
___ that demonstrated esophageal varices with high risk 
stigmata that were banded x 4. He tolerated the procedure well, 
and H/H remained stable. His diet was advanced successfully with 
no further evidence of bleeding.

During his admission his iron studies were noted to be low, so 
he was given IV iron x 2 doses. He was then discharged on 
ferrous gluconate 324mg po daily. 

Advised to continue pantoprazole BID, Carafate QID x 2 weeks, 
and ferrous sulfate. He should have a repeat EGD in ___ weeks 
for possible further banding. 

Prior to admission he was being treated for depression and 
suicidal ideation. This was stable during admission, and he was 
discharged to ___ for continued care and treatment. 

ACTIVE ISSUES:
================
# Upper Gastrointestingal Bleed
# Variceal Bleed: Mr. ___ presented from ___ with 
melena and dizziness. On admission with H/H of 7.0/25.3. He was 
started on pantoprazole 40mg IV BID, octreotide gtt, and 
ceftriaxone 1g IV for SBP ppx. He was admitted to the floor and 
remained hemodynamically stable. Transfused 2U of PRBCs during 
his admission. Underwent an upper endoscopy on ___ that 
demonstrated esophageal varices with high risk stigmata so 
underwent banding x 4. No further episodes of bleeding during 
his admission and his H/H remained stable. His diet was advanced 
as tolerated. He was started on pantoprazole 40mg po BID ongoing 
and sucralfate slurry 1 g QID x 2 weeks (last day ___. He 
will need repeat EGD in ___ weeks as an outpatient. 

# Alcoholic/Hepatitis C Cirrhosis:  
Has a history of varices and ascites. ALT/AST elevated on 
admission, although remained stable at about 100. Bilirubin 
remained stable. He was due for screening ultrasound. Liver 
ultrasound obtained demonstrated moderate ascites. Also with an 
echogenic 0.6cm lesion. Recommend 3 month ultrasound or MRI as 
an outpatient. 

# Iron Deficiency Anemia: Noted to have low iron studies with 
Ferritin 8.9 and transferrin saturation of <10%. He was repleted 
with IV ferric gluconate while inpatient, and discharged on 
ferrous gluconate 324mg po daily. 

CHRONIC ISSUES:  
# Depression, Suicidal ideation: Patient was admitted to 
___ for suicidal ideation. It was during this 
admission when he started having melena. Prior to discharge from 
___, he was evaluated by inpatient Psychiatry who felt he 
would benefit from ongoing treatment. He was continued on home 
fluoxetine 40mg po daily during admission. Did not require 1:1. 
Discharged back to ___ on discharge. 

***TRANSITIONAL ISSUES***
- Please recheck H/H on ___ to ensure that his blood counts 
remain stable. Discharge H/H of 8.6/30.4
- Will need repeat upper endoscopy in ___ weeks
- Ultrasound demonstrated an echogenic lesion in the right lobe 
of the liver measuring up to 0.6 cm. Ultrasound in 3 months or 
further characterization with MRI is recommended. 
- New medications 
 - Continue pantoprazole 40mg po BID
 - Continue sulcralfate 1g slurry QID through ___ to complete 
2-week course 
 - Continue ferrous gluconate 324mg po daily
- Will need further treatment of his depression
- After discharged from ___, he will need to be seen by 
his primary care physician. 
# Code: Full
# Contact: sister ___ ___  
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. FLUoxetine 40 mg PO DAILY 
2. Propranolol 20 mg PO BID 

 
Discharge Medications:
1.  Ferrous GLUCONATE 324 mg PO DAILY  
2.  Pantoprazole 40 mg PO Q12H  
3.  Sucralfate 1 gm PO QID Post banding Duration: 14 Days 
Please continue through ___  
4.  FLUoxetine 40 mg PO DAILY  
5.  Propranolol 20 mg PO BID  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary: Upper gastrointestinal bleeding; Esophageal variceal 
bleed

Secondary: Alcoholic cirrhosis; Depression; Iron deficiency 
anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ 
(___) due to blood in your stool and dizziness concerning for 
a gastrointestinal bleed. While here, you had an upper endoscopy 
to look for a source of bleeding. The gastroenterology doctors 
___ vessels in your esophagus called varices, and 
we believe this is the source of your bleeding. They were banded 
to help prevent bleeding, and you should have a repeat endoscopy 
in ___ weeks. 

Please take pantoprazole twice daily and sulcralfate four times 
daily to help prevent future bleeding. You are also iron 
deficient, so should take iron supplementation daily. 

Please follow up with your outpatient providers and all your 
scheduled appointments. You were discharged to ___ to 
continue treatment for your depression. 

Thank you for allowing us to be involved in your care. 

Sincerely, 
Your ___ Care Team
 
Followup Instructions:
___